US07919519B2
4-Aminodiphenylmethane (5.00 g, 27 mmol) was added in portions to acetic anhydride (26 mL, 273 mmol) with rapid stirring. A solid mass formed which was liberated by the addition of 15 mL additional acetic anhydride. The reaction was allowed to cool to ambient temp, and nitric acid (2.0 mL, 41 mmol) was added slowly dropwise via addition funnel over 30 min. The homogeneous red mixture was allowed to stir overnight and poured into a rapidly stirring solution of 30 mL water, 7 mL conc. HCl, and 24 mL EtOH (exothermic!). The reaction was allowed to cool and was then heated to reflux for ˜4 h, cooled and poured onto ice and neutralized with 10N NaOH to pH 8-9. The aqueous layer was extracted 3×DCM and dried over sodium sulfate, filtered, and concentrated. The resulting dark red oil was purified by silica gel chromatography, ISCO 120 g, 0-20% EtOAc/hexanes, to give 4-benzyl-2-nitrobenzenamine as a red oil. MS (ESI) m/z: Calculated: 228.1; Observed: 229.0 (M++1).

reactant | 4-Aminodiphenylmethane | 27 mmol, 5.00 g | C1=CC=C(C=C1)CC2=CC=C(C=C2)N | C13H13N
reactant | acetic anhydride | 273 mmol, 26 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 41 mmol, 2.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | HCl | 7 mL | Cl | ClH
reactant | NaOH | 10N | [OH-].[Na+]
solvent | EtOH | 24 mL | CCO | C2H6O
solvent | water | 30 mL | O | H2O
product | 4-benzyl-2-nitrobenzenamine | C(C1=CC=CC=C1)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C13H12N2O2
